* Z:\markuskreitzer On My Mac\code_n_scripts\School--Homework--Projects\Fall2012\Lab 3\LTSpice\Prelab2-schematic1.asc
Q1 N002 N003 N004 0 2N3904
RE N004 0 470
RC N001 N002 3k
RB2 N001 N003 30k
RB1 N003 0 6.8k
VCC N001 0 9
R1 VOUT 0 10k
VS VIN 0 SINE(0 1.0mV 1kHz) AC 1mV
CE N004 0 47µ
C2 VOUT N002 47µ
C1 N003 VIN 47µ
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
;op
.ac dec 1000 1 1e9
;tran 0 8ms 4ms
.backanno
.end
